US07157464B2
Synthesis of 2-(3-tert-Butyl-4-chloro-5-trifluoromethyl-pyrazol-1-yl)-1-[4-(4-fluorophenyl)-piperazin-1-yl]-ethanone
Protocol T was followed using 5-tert-Butyl-4-chloro-3-trifluoromethyl-1H-pyrazole, K2CO3, 2-Chloro-1-[4-(4-fluoro-phenyl)-piperazin-1-yl]-ethanone and DMF. Column chromatography using a solvent mixture (hexane/ethyl acetate=1/1) afforded the title compound as white solid. 1H NMR (400 MHz, CDCl3): 6.94–7.22 (m, 2H), 6.84–6.92 (m, 2H), 5.3 (s, 2H), 3.68–3.8 (m, 2H), 3.6–3.68 (m, 2H), 3.04–3.2 (m, 4H), 1.4 (s, 9H). 13C NMR (400 MHz, CDCl3): 164.8, 119, 118.4, 118.2, 116.2, 116, 54, 51, 50.8, 45.4, 42.2, 30, 29, 27.

reactant | 5-tert-Butyl-4-chloro-3-trifluoromethyl-1H-pyrazole | C(C)(C)(C)C1=C(C(=NN1)C(F)(F)F)Cl | C8H10ClF3N2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-Chloro-1-[4-(4-fluoro-phenyl)-piperazin-1-yl]-ethanone | ClCC(=O)N1CCN(CC1)C1=CC=C(C=C1)F | C12H14ClFN2O
reactant | DMF | CN(C)C=O | C3H7NO
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 2-(3-tert-Butyl-4-chloro-5-trifluoromethyl-pyrazol-1-yl)-1-[4-(4-fluorophenyl)-piperazin-1-yl]-ethanone | C(C)(C)(C)C1=NN(C(=C1Cl)C(F)(F)F)CC(=O)N1CCN(CC1)C1=CC=C(C=C1)F | C20H23ClF4N4O
